US08609656B2
In 8 mL of methylene chloride, 387 mg (1.52 mmol) of 1-(4-nitrophenyl)-1H-indole-4-ol was dissolved, and 0.186 mL (2.00 mmol) of acetic anhydride and 0.318 mL (2.28 mmol) of triethylamine were added thereto and the mixture solution was stirred at room temperature for 14 hours. The reaction solution was partitioned between methylene chloride (50 mL) and a saturated ammonium chloride aqueous solution (20 mL) and washed with a saturated sodium chloride solution, and the organic layer was dried and then concentrated under reduced pressure to obtain acetic acid 1-(4-nitrophenyl)-1H-indol-4-yl ester. The product was used in the next reaction without further purification.

reactant | 1-(4-nitrophenyl)-1H-indole-4-ol | 1.52 mmol, 387 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C=CC=2C(=CC=CC12)O | C14H10N2O3
reactant | acetic anhydride | 2.00 mmol, 0.186 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.28 mmol, 0.318 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | acetic acid 1-(4-nitrophenyl)-1H-indol-4-yl ester | [N+](=O)([O-])C1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)OC(C)=O | C16H12N2O4
